US06765005B2
a) tert-Butyl 4-fluoro-3-methylbenzoate
To a stirred solution of di-tert-butyl dicarbonate (11 g, 50.4 mmole) in dry THF (50 mL) with stirring under argon at −78° C. was added over 5 min a 1.0 M solution of 4-fluoro-3-methylphenylmagnesium bromide in THF (50 mL, 50 mmole). After 15 min the cooling bath was removed and the reaction was allowed to warm to RT. After 4 h at RT the reaction was concentrated to dryness on the rotavap. The residue was taken up in Et2O (250 mL) and washed sequentially with 1.0 N NaOH (250 mL) and brine (250 mL). Drying (MgSO4) and concentration left an oil that was distilled through a short path distillation apparatus under high vacuum. The fraction boiling at 92-95° C./1 mm Hg was collected to give the title compound (9.85 g, 94%) as a clear oil: 1H NMR (300 MHz, CDCl3) δ 7.78-7.85 (m, 2H), 7.02 (t, J=1.8 Hz, 1H), 2.30 (d, J=1.8 Hz, 3H), 1.59 (s, 9H).

reactant | di-tert-butyl dicarbonate | 50.4 mmole, 11 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | 4-fluoro-3-methylphenylmagnesium bromide | FC1=C(C=C(C=C1)[Mg]Br)C
solvent | THF | 50 mL | C1CCOC1 | C4H8O
solvent | THF | 50 mmole, 50 mL | C1CCOC1 | C4H8O
product | tert-Butyl 4-fluoro-3-methylbenzoate | 9.85 g, 94% | FC1=C(C=C(C(=O)OC(C)(C)C)C=C1)C | C12H15FO2
